US08609690B2
8-Benzyl-3-(4-fluoro-phenyl)-8-aza-bicyclo[3.2.1]octan-3-ol
1-Bromo-4-fluoro-benzene (22.7 g) dissolved in diethylether (100 mL) is added to a solution of n-butyllithium (1.7 mol/L in pentane, 86.8 mL) in diethylether (200 mL) cooled to −35° C. The combined solutions are stirred at −35-−40° C. for 1 h, before 8-benzyl-8-aza-bicyclo[3.2.1]octan-3-one (22.5 g) dissolved in diethylether (150 mL) is added quickly. The solution is warmed to −10° C. within 1 h and then quenched by the addition of aqueous NH4Cl solution. The resulting mixture is extracted with ethyl acetate, the combined extracts are washed with brine, and then 4 M hydrochloric acid is added to the extract phase. The organic phase is separated from the aqueous phase and an oily precipitation formed after the addition. The oily and aqueous phase are basified with 4 M aqueous NaOH solution and the resulting mixture is extracted with ethyl acetate. The organic extracts are dried (Na2SO4) and the solvent is evaporated to give the title compound.

reactant | 1-Bromo-4-fluoro-benzene | 22.7 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | n-butyllithium | 1.7 mol/L, 86.8 mL | C(CCC)[Li]
reactant | 8-benzyl-8-aza-bicyclo[3.2.1]octan-3-one | 22.5 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=O | C14H17NO
reactant | NaOH | 4 M | [OH-].[Na+]
solvent | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
solvent | diethylether | 150 mL | C(C)OCC | C4H10O
product | 8-Benzyl-3-(4-fluoro-phenyl)-8-aza-bicyclo[3.2.1]octan-3-ol | C(C1=CC=CC=C1)N1C2CC(CC1CC2)(O)C2=CC=C(C=C2)F | C20H22FNO
